US08124606B2
Compound 64A: Methyl 5-amino-6-(1H-imidazol-1-yl)nicotinate:
Compounds 64C1 and 64C2: 3-(Hydroxymethyl)imidazo[1,2-a]pyrido[3,2-e]pyrazin-6(5H)-one and 3-(Hydroxymethyl)imidazo[1,5-a]pyrido[3,2-e]pyrazin-6(5H)-one: Methyl 6-oxo-5,6-dihydroimidazo[1,2-a]pyrido[3,2-e]pyrazine-3-carboxylate (0.410 g, 1.68 mmol) was suspended in THF (20 mL) and sodium hydride (60% susp. in mineral oil, 0.112 g, 2.80 mmol) was added in one portion. The reaction mixture was stirred at room temperature for 1 h, cooled to −50° C. and LiAlH4 (2M in THF, 1.7 mL, 3.4 mmol) was added dropwise over 2 min. The reaction mixture was kept at −30-(−10)° C. for 3 h and more LiAlH4 (2M in THF, 0.7 mL and 1.0 mL, 3.4 mmol combined) was added. The reaction mixture was cooled to −60° C. and slowly quenched with MeOH, warmed to room temperature and TFA and water were added until a clear solution resulted. The solution was subjected to preparative HPLC (1-30% acetonitrile in water, TFA buffered) to afford the title compound as a grey solid (147 mg, 40%; −2:1 mixture of imidazole regioisomers). [M+H] calc'd for C10H8N4O2, 217; found, 217.

reactant | 3-(Hydroxymethyl)imidazo[1,2-a]pyrido[3,2-e]pyrazin-6(5H)-one | OCC1=CC=2NC(C=3N(C2N=C1)C=CN3)=O | C10H8N4O2
reactant | 3-(Hydroxymethyl)imidazo[1,5-a]pyrido[3,2-e]pyrazin-6(5H)-one | OCC1=CC=2NC(C=3N(C2N=C1)C=NC3)=O | C10H8N4O2
reactant | Methyl 6-oxo-5,6-dihydroimidazo[1,2-a]pyrido[3,2-e]pyrazine-3-carboxylate | 1.68 mmol, 0.410 g | O=C1C=2N(C3=C(N1)C=C(C=N3)C(=O)OC)C=CN2 | C11H8N4O3
reactant | sodium hydride | 2.80 mmol, 0.112 g | [H-].[Na+]
reactant | LiAlH4 | 3.4 mmol, 2M, 1.7 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 3.4 mmol, 2M, 0.7 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 5-amino-6-(1H-imidazol-1-yl)nicotinate | 147 mg, 40% | NC=1C(=NC=C(C(=O)OC)C1)N1C=NC=C1 | C10H10N4O2
